US08835420B2
Preparation x30: (S)-4-Methyl-6-((1-(1-methyl-6-(3-methyl-1H-pyrazol-4-yl)-1H-pyrrolo[3,2-b]pyridin-5-yl)ethyl)amino)-2-(methylthio)pyrimidine-5-carbonitrile
A solution of (S)-1-(1-methyl-6-(3-methyl-1H-pyrazol-4-yl)-1H-pyrrolo[3,2-b]pyridin-5-yl)ethanamine dihydrochloride (200 mg, 0.609 mmol), 4-chloro-6-methyl-2-(methylthio)pyrimidine-5-carbonitrile (182 mg, 0.914 mmol), and N-ethyl-N-isopropylpropan-2-amine (0.318 mL, 1.83 mmol) in acetonitrile (5 mL) was heated in a microwave reactor at 120° C. for 2 hours. The mixture was then concentrated. The residue was dissolved in MeOH/DCM, absorbed onto silica gel, and purified by column chromatography eluting with 20-80% EtOAc in hexane over 60 minutes to give the title compound. ESI-MS m/z [M+H]+ calc'd for C21H22N8S, 419; found 419.

reactant | (S)-1-(1-methyl-6-(3-methyl-1H-pyrazol-4-yl)-1H-pyrrolo[3,2-b]pyridin-5-yl)ethanamine dihydrochloride | 0.609 mmol, 200 mg | Cl.Cl.CN1C=CC2=NC(=C(C=C21)C=2C(=NNC2)C)[C@H](C)N
reactant | 4-chloro-6-methyl-2-(methylthio)pyrimidine-5-carbonitrile | 0.914 mmol, 182 mg | ClC1=NC(=NC(=C1C#N)C)SC | C7H6ClN3S
reactant | N-ethyl-N-isopropylpropan-2-amine | 1.83 mmol, 0.318 mL | C(C)N(C(C)C)C(C)C | C8H19N
solvent | acetonitrile | 5 mL | C(C)#N | C2H3N
product | (S)-4-Methyl-6-((1-(1-methyl-6-(3-methyl-1H-pyrazol-4-yl)-1H-pyrrolo[3,2-b]pyridin-5-yl)ethyl)amino)-2-(methylthio)pyrimidine-5-carbonitrile | CC1=NC(=NC(=C1C#N)N[C@@H](C)C1=C(C=C2C(=N1)C=CN2C)C=2C(=NNC2)C)SC | C21H22N8S
